US06245773B1
A heterogenous reaction mixture containing 2-bromo-1-nitrobenzene (2.02 g, 10.0 mmol) and piperazine (4.3 g, 50.0 mmol) was heated at 100° C. for 10 h. The orange-red solid was extracted with ethyl acetate and washed thoroughly with 3 N NaOH solution followed by brine. The organic layer was separated and dried over Na2SO4, filtered and the solvent was removed in vacuo. The resulting red oil was purified by column chromatography on silica gel (1:1 hexane/EtOAc followed by 4:1 EtOAc/MeOH) to yield 1-(2-nitrophenyl)-piperazine as an orange-red oil (1.90 g, 92%). It was converted to its hydrochloride salt. Anal. calcd. for C10H14N3O2Cl.0.10 CHCl3: C, 47.46; H, 5.56; N, 16.44. Found: C, 47.63; H, 5.69; N, 16.42.

reactant | 2-bromo-1-nitrobenzene | 10.0 mmol, 2.02 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | piperazine | 50.0 mmol, 4.3 g | N1CCNCC1 | C4H10N2
product | 1-(2-nitrophenyl)-piperazine | 1.90 g, 92% | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
